US04192883
Synthesis of N(2'-pyrrolidino-ethyl)-9-fluorene-carboxamide hydrochloride (F 1532)
One mol (238 g) of ethyl 9-fluorene carboxylate is treated with 1.6 mol of 2-amino-ethyl pyrrolidine. Heated for 2 hours at 150° C., the ethanol distills over as it is formed. The reaction mass obtained is dissolved in methylene chloride, washed three times with water, dried, filtered and distilled to dryness.

reactant | ethyl 9-fluorene carboxylate | One mol, 238 g | C1=CC=CC=2C3=CC=CC=C3C(C12)C(=O)OCC | C16H14O2
reactant | 2-amino-ethyl pyrrolidine | 1.6 mol | NCCN1CCCC1 | C6H14N2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
product | N(2'-pyrrolidino-ethyl)-9-fluorene-carboxamide hydrochloride | Cl.N1(CCCC1)CCNC(=O)C1C2=CC=CC=C2C=2C=CC=CC12 | InChI=1S/C20H22N2O.ClH/c23-20(21-11-14-22-12-5-6-13-22)19-17-9-3-1-7-15(17)16-8-2-4-10-18(16)19;/h1-4,7-10,19H,5-6,11-14H2,(H,21,23);1H
